US04251546
Dimethyl sulphate (30 ml) was added dropwise over 45 min to a stirred mixture of 5-fluoro-2-hydroxyacetophenone (32.43 g) and potassium carbonate (40.5 g) in acetone (500 ml) and the mixture was then heated under reflux for 8 hr. Concentrated ammonia solution was added and the inorganic solids removed by filtration. The solvent was removed under reduced pressure and the product was dissolved in ether and washed with water. After drying the ethereal solution (Na2SO4) the ether was removed under reduced pressure and the residue was distilled to give 5-fluoro-2-methoxyacetophenone (28.4 g); b.p. 58°-64 ° C./0.2 mm.

reactant | Dimethyl sulphate | 30 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 5-fluoro-2-hydroxyacetophenone | 32.43 g | CC(=O)C1=C(C=CC(=C1)F)O | C8H7FO2
reactant | potassium carbonate | 40.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonia | N | H3N
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 5-fluoro-2-methoxyacetophenone | 28.4 g | CC(=O)C1=C(C=CC(=C1)F)OC | C9H9FO2
